US05650270
Ethanol is reacted with trichloroacetic anhydride to yield ethyltrichloroacetate.

reactant | trichloroacetic anhydride | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
solvent | Ethanol | C(C)O | C2H6O
product | ethyltrichloroacetate | C(C)OC(C(Cl)(Cl)Cl)=O | C4H5Cl3O2
